US07582772B2
A solution of 3-butyn-1-ol (365 g, 5.21 mol), triethylamine (526 g, 5.21 mol), and toluene (419 mL) was added to a cooled (0-5° C.) stirred solution of 4-chlorobenzenesulfonyl chloride (1.0 kg, 4.74 mol) and toluene (2.10 L). The reaction temperature was maintained below 20° C. during the addition. Precipitation of triethylamine hydrochloride salt occurred during the reaction. The reaction mixture was stirred at room temperature for 2-4 h. The triethylamine hydrochloride byproduct was separated by filtration and washed with toluene (2×350 mL). The combined filtrates were concentrated to remove toluene under reduced pressure above 45° C. to maintain the residue as a liquid. 2-Propanol (1.20 L) was added to the residue and the stirred solution was cooled to 20-25° C. Water (1.80 L) was added over 15 m. The slurry of product and solvent was cooled to 0-5° C. and stirred for 1 h. The white solid product was collected by filtration, washed with 33% aqueous 2-propanol (v/v), and vacuum dried to give 4-chloro-benzenesulfonic acid but-3-ynyl ester with 99% purity (as determined by HPLC.

reactant | 3-butyn-1-ol | 5.21 mol, 365 g | C(CC#C)O | C4H6O
reactant | triethylamine | 5.21 mol, 526 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 4.74 mol, 1.0 kg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | toluene | 2.10 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 419 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-benzenesulfonic acid but-3-ynyl ester | C(CC#C)OS(=O)(=O)C1=CC=C(C=C1)Cl | C10H9ClO3S
